US07691882B2
(3-Ethynyl-phenyl)-methanol
To a mixture of 1-bromo-3-methoxymethoxymethyl-benzene (3.0 g, 13 mmol) described in Manufacturing Example 214-1-1, trimethylsilylacetylene (2.6 g, 26 mmol), N,N-diisopropylethylamine (3.4 g, 26 mmol), copper (I) iodide (500 mg, 2.6 mmol), and 1-methyl-2-pyrrolidone (30 mL) was added tetrakis(triphenylphosphine)palladium (0) (1.5 g, 1.3 mmol), which was stirred for 15 minutes at 60° C. This mixture was partitioned into ethyl acetate and water. The organic layer was separated and concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=8:1) to obtain a mixture of (3-methoxymethoxymethyl-phenylethynyl)-trimethyl-silane and 1-bromo-3-methoxymethoxymethyl-benzene (3.0 g of mixture, including approximately 30% (3-methoxymethoxymethyl-phenylethynyl)-trimethyl-silane). Tetrabutylammonium fluoride (2 mL, 1 M tetrahydrofuran solution) was added to a tetrahydrofuran (20 mL) solution of this mixture, which was stirred for 15 minutes at room temperature. The reaction solution was partitioned into ethyl acetate and water. The organic layer was separated and concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=20:1) to obtain 1-ethynyl-3-methoxymethoxymethyl-benzene (470 mg). To a methanol (10 mL) solution of this 1-ethynyl-3-methoxymethoxymethyl-benzene (470 mg, 2.6 mmol) was added 5 N hydrochloric acid, which was stirred for 25 minutes at 70° C. The reaction solution was partitioned into ethyl acetate and water. The organic layer was separated and concentrated under a reduced pressure to obtain the title compound (350 mg, 20%).

reactant | 1-ethynyl-3-methoxymethoxymethyl-benzene | 2.6 mmol, 470 mg | C(#C)C1=CC(=CC=C1)COCOC | C11H12O2
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | (3-Ethynyl-phenyl)-methanol | 350 mg, 20% | C(#C)C=1C=C(C=CC1)CO | C9H8O
